US04593102
3-[(4-Chlorophenyl)sulfonyl]pyrrolidine hydrochloride
A solution of 8.31 g (0.0248 mole) of 3-[(4-chlorophenyl)sulfonyl]-1-(phenylmethyl)pyrrolidine (free base) and 7.1 g (0.0455 mole) of phenyl chloroformate in 300 ml of methylene chloride was stirred at room temperature for 20 hr. The solution was extracted several times with dilute aqueous sodium hydroxide solution and the organic layer was separated and dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. The oil was suspended in 300 ml of 60% sulfuric acid and the mixture poured over ice. The resulting acidic mixture was extracted with methylene chloride and the methylene chloride layer was discarded. The acidic aqueous layer was made basic with 50% sodium hydroxide solution and extracted with methylene chloride. The methylene chloride extract of the basic solution was dried over magnesium sulfate and the solvent removed in vacuo to give an oil, the free base of the title compound. The hydrochloride salt was prepared using ethereal hydrogen chloride added to a methanol solution of the free base and recrystallized from methyl alcohol-diethyl ether to give 4.11 g (58.9%) of white crystalline solid, m.p. 202°-203° C.

reactant | 3-[(4-chlorophenyl)sulfonyl]-1-(phenylmethyl)pyrrolidine | 0.0248 mole, 8.31 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CN(CC1)CC1=CC=CC=C1 | C17H18ClNO2S
reactant | phenyl chloroformate | 0.0455 mole, 7.1 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | 3-[(4-Chlorophenyl)sulfonyl]pyrrolidine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1CNCC1 | InChI=1S/C10H12ClNO2S.ClH/c11-8-1-3-9(4-2-8)15(13,14)10-5-6-12-7-10;/h1-4,10,12H,5-7H2;1H
